US06420359B1
h) 2-Chloro-5,11-dihydro-11-ethyl-5-methyl-8-{2-(4-quinolinyloxy)ethyl}-6H-dipyrido[3,2-b:2′,3′-e] [1,4]diazepin-6-one
Diethyl azodicarboxylate (DEAD) (4.26 mL, 27.0 mmol) was added drop-wise to a solution of 2-chloro-5,11-dihydro-11-ethyl-8-(2-hydroxyethyl)-5-methyl-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one (6.00 g, 18.0 mmol), 4-hydroxyquinoline (3.92 g, 27.0 mmol) and Ph3P (7.09 g, 27.0 mmol) in THF (90 mL) at room temperature. The mixture was stirred at room temperature for 1 h then was concentrated under reduced pressure. The residue was purified by flash chromatography (EtOAc:MeOH, 95:5) to give the title compound (6.22 g, 75% yield) as a white solid: MS (ESI) m/z 460/462.

reactant | Diethyl azodicarboxylate | 27.0 mmol, 4.26 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 2-chloro-5,11-dihydro-11-ethyl-8-(2-hydroxyethyl)-5-methyl-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one | 18.0 mmol, 6.00 g | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)CCO)=O)C | C16H17ClN4O2
reactant | 4-hydroxyquinoline | 27.0 mmol, 3.92 g | OC1=CC=NC2=CC=CC=C12 | C9H7NO
reactant | Ph3P | 27.0 mmol, 7.09 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | THF | 90 mL | C1CCOC1 | C4H8O
product | 2-Chloro-5,11-dihydro-11-ethyl-5-methyl-8-{2-(4-quinolinyloxy)ethyl}-6H-dipyrido[3,2-b:2′,3′-e] [1,4]diazepin-6-one | 6.22 g, 75% yield | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)CCOC3=CC=NC1=CC=CC=C31)=O)C | C25H22ClN5O2
